US07531663B2
4.37 g (32.32 mmol) of 6-fluoroindole are added at a temperature in the region of 20° C. under an argon atmosphere to a solution of 4 cm3 (35.55 mmol) of trichloroacetyl chloride in 44.5 cm3 of 1,4-dioxane and 2.9 cm3 (35.55 mmol) of pyridine. After stirring at a temperature in the region of 20° C. for 20 hours, the reaction mixture is poured into 125 cm3 of demineralised water. The precipitate which appears is isolated by filtration, washed with 3 times 20 cm3 of water and then dried at 40° C. under reduced pressure to provide 5 g of 6-fluoro-3-trichloroacetyl-1H-indole in the form of a purple powder melting at 244° C.

reactant | 6-fluoroindole | 32.32 mmol, 4.37 g | FC1=CC=C2C=CNC2=C1 | C8H6FN
reactant | trichloroacetyl chloride | 35.55 mmol, 4 cm3 | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | pyridine | 35.55 mmol, 2.9 cm3 | N1=CC=CC=C1 | C5H5N
reactant | water | 125 cm3 | O | H2O
solvent | 1,4-dioxane | 44.5 cm3 | O1CCOCC1 | C4H8O2
product | 6-fluoro-3-trichloroacetyl-1H-indole | 5 g | FC1=CC=C2C(=CNC2=C1)C(C(Cl)(Cl)Cl)=O | C10H5Cl3FNO
